US07666888B2
1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}-3-phenylpyrrolidin-3-ol
A solution of 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10 mg, 0.05 mmol), TBTU (19 mg, 0.06 mmol, 1,2 equ.) and N-ethyl-N-isopropylpropan-2-amine (26 μL, 0.15 mmol, 3 equ) in DMF (0.3 mL) was added to 3-phenylpyrrolidine hydrochloride (10 mg, 0.05 mmol) and the reaction mixture was left at rt for 2 h. The solvent was evaporated and the crude product was purified by RP-HPLC. After evaporation of the solvents the product was dried in vacuum to yield the title compound (7 mg). MS (ESI, pos. ion) m/z calcd for C21H20N2O3: 348.1474, found 348.1470.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.05 mmol, 10 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | TBTU | 0.06 mmol, 19 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.15 mmol, 26 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-phenylpyrrolidine hydrochloride | 0.05 mmol, 10 mg | Cl.C1(=CC=CC=C1)C1CNCC1
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}-3-phenylpyrrolidin-3-ol | 7 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC(CC1)(O)C1=CC=CC=C1 | C21H20N2O3
